US06881737B2
{3-[4-(3-Bromo-phenylamino)-[1,3,5]triazin-2-ylamino]-phenyl)-acetic acid methyl ester (142 mg, 0.3425 mmol) was dissolved in THF (34.5 ml) and 1N LiOH/water (6.85 ml). The reaction was stirred vigorously at RT for 2 h. The organic solvent was evaporated off. The aqueous solution was acidified to pH 3 with 1N HCl, whereupon a white precipitate formed. The precipitate was filtered and dried under vacuum, giving {3-[4-(3-bromo-phenylamino)-[1,3, 5]triazin-2-ylamino]-phenyl}-acetic acid. MS m/z 401=[M+H]+. Calc'd for C17H14BrN5O2: 399.03.

reactant | {3-[4-(3-Bromo-phenylamino)-[1,3,5]triazin-2-ylamino]-phenyl)-acetic acid methyl ester | 0.3425 mmol, 142 mg | COC(CC1=CC(=CC=C1)NC1=NC=NC(=N1)NC1=CC(=CC=C1)Br)=O | C18H16BrN5O2
solvent | THF | 34.5 ml | C1CCOC1 | C4H8O
solvent | LiOH water | 1N, 6.85 ml | [Li+].[OH-].O
product | {3-[4-(3-bromo-phenylamino)-[1,3, 5]triazin-2-ylamino]-phenyl}-acetic acid | BrC=1C=C(C=CC1)NC1=NC(=NC=N1)NC=1C=C(C=CC1)CC(=O)O | C17H14BrN5O2
